data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_239799_0,[C:1]([C:4]([C:2]([H:12])([H:13])[H:14])=[O:8])([O:5][C:3]([O:6][H:9])=[O:7])([H:10])[H:11]>>[C:1]1([H:10])([H:11])[C@@:4]([C:2]([H:12])([H:13])[H:14])([O:8][C:3]([O:6][H:9])=[O:7])[O:5]1,67.21968250000089
MR_260668_2,[C:1]([C:4]1([C:7]([H:13])([H:19])[H:20])[C:6]([C:5](=[C:2]([H:14])[H:15])[C:3]([H:16])([H:17])[H:18])([H:9])[O:8]1)([H:10])([H:11])[H:12]>>[C:1]([C:4](=[C:7]([H:19])[H:20])[O:8][C:6](=[C:5]([C:2]([H:13])([H:14])[H:15])[C:3]([H:16])([H:17])[H:18])[H:9])([H:10])([H:11])[H:12],60.04610249999246
MR_359991_0,[C:1]([C:3]([C:4]([C:2]([H:16])([H:17])[H:18])/[C:6](=[N:8]\[O:7][H:9])[H:12])[N:5]([H:10])[H:11])([H:13])([H:14])[H:15]>>[C:1]([C:3]1([N:5]([H:10])[H:11])[C:4]([C:2]([H:16])([H:17])[H:18])=[C:6]([H:12])[N:8]1[O:7][H:9])([H:13])([H:14])[H:15],42.2922449999804
MR_500144_0,[C:1]([C:2]([C:4]([C:3]([H:16])([H:17])[H:18])=[O:8])([H:13])[H:14])([N:5]([H:10])[H:11])(/[C:6](=[N:7]/[H:12])[H:15])[H:9]>>[C:1](\[C:2]([C:4]([C:3]([H:16])([H:17])[H:18])(/[C:6](=[N:7]/[H:12])[H:15])[O:8][H:10])([H:13])[H:14])(=[N:5]/[H:11])[H:9],61.58410499999732
MR_260941_0,[C:1]([C:4](/[C:3](=[C:6](\[C:5]([C:2]([H:15])([H:16])[H:17])=[O:9])[H:11])[O:7][H:10])=[O:8])([H:12])([H:13])[H:14]>>[C:1]([C:4]1=[C:3]([O:7][H:10])[C:6]([C:2]([H:15])([H:16])[H:17])([H:11])[C:5](=[O:9])[O:8]1)([H:12])([H:13])[H:14],51.77878999999891
MR_322032_1,[C:1]([N:4]([C:5]([C:2]([C:3]([H:15])([H:16])[H:17])([H:13])[H:14])([O:7][H:10])[O:8][H:9])[H:11])(=[O:6])[H:12]>>[C:1]([N:4]([C:5]([C:2]([C:3]([H:15])([H:16])[H:17])([H:13])[H:14])=[O:8])[H:11])([O:6][H:9])([O:7][H:10])[H:12],45.99261249998321
MR_186965_1,[C:1]([N:3]([C:2]([H:13])([H:14])[H:15])[C:4]([N:5]([H:9])[H:10])=[O:7])([O:6][H:8])([H:11])[H:12]>>[C:1]([O:6][H:8])([O:7]/[C:4](=[N:3]\[C:2]([H:13])([H:14])[H:15])[N:5]([H:9])[H:10])([H:11])[H:12],63.58708500000532
MR_644389_2,[C:1]1([C:2]([H:13])([H:14])[H:15])([O:7][H:9])[C:5]([N:4]([C:3]([H:16])([H:17])[H:18])[H:10])([N:6]([H:11])[H:12])[O:8]1>>[C:1]([C:2]([H:13])([H:14])[H:15])([N:4]([C:3]([H:16])([H:17])[H:18])[H:10])([C:5]([N:6]([H:11])[H:12])=[O:8])[O:7][H:9],35.83652499994301
MR_170415_0,[C:1]([N:3]([C:2]([H:9])([H:12])[H:13])[O:5][C:4](=[O:6])[H:7])([H:8])([H:10])[H:11]>>[C:1]([N:3]([C:2]([H:9])([H:12])[H:13])[O:6][C:4](=[O:5])[H:7])([H:8])([H:10])[H:11],44.528655000005415
MR_289026_0,[C:1]([C:3]([H:13])([H:15])[H:16])([C:4]([H:14])([H:17])[H:18])([N:6](/[C:2](=[N:7]/[H:11])[H:12])[H:10])[C:8]([C:5]([H:19])([H:20])[H:21])=[O:9]>>[C:1]1([C:3]([H:13])([H:15])[H:16])([C:4]([H:14])([H:17])[H:18])[N:6]([H:10])[C:2]([C:5]([H:19])([H:20])[H:21])([H:12])[N:7]([H:11])[C:8]1=[O:9],68.70560249999457
MR_171500_0,[C:1]([C:2]([H:14])([H:15])[H:16])(/[C:4]([C:3]([O:6][H:9])=[O:8])=[N:7]\[H:13])([N:5]([H:11])[H:12])[H:10]>>[C:1]([C:2]([H:14])([H:15])[H:16])(/[C:4]([C:3]([O:6][H:9])([O:8][H:12])[H:10])=[N:7]\[H:13])=[N:5]\[H:11],68.56504250002843
MR_117841_1,[N:1](/[C:2]([N:6]([H:13])[H:14])=[N:7]/[H:16])(/[C:3]([N:5]([H:11])[H:12])=[N:8]\[H:15])[N:4]([H:9])[H:10]>>[N:1](=[C:2](\[N:6]([H:13])[H:14])[N:7](/[C:3]([N:5]([H:11])[H:12])=[N:8]\[H:15])[H:16])\[N:4]([H:9])[H:10],44.61775999999446
MR_182951_1,[C:1]([N:5]([C:2]([H:14])([H:15])[H:16])[C:7](=[O:9])[H:10])(/[C:6]([C:3]([H:17])([H:18])[H:19])=[C:8](\[C:4]([H:20])([H:21])[H:22])[H:13])([H:11])[H:12]>>[C:1]1([H:11])([H:12])[N:5]([C:2]([H:14])([H:15])[H:16])[C:6]1([C:3]([H:17])([H:18])[H:19])[C:8]([C:4]([H:20])([H:21])[H:22])([C:7](=[O:9])[H:10])[H:13],70.11936000002777
MR_604438_1,[C:1]([O:5][N:3]([C:2]([H:13])([H:14])[H:15])/[N:7]=[C:4](\[O:6][H:8])[H:9])([H:10])([H:11])[H:12]>>[C:1]([O:5][C:4]([O:6][H:8])(/[N:7]=[N:3]/[C:2]([H:13])([H:14])[H:15])[H:9])([H:10])([H:11])[H:12],35.75745999999995
MR_656789_1,[C:1]1([O:6][H:7])([H:9])[N:2]([H:8])[C:4]([H:11])=[C:3]([H:10])[O:5]1>>[C:1]([O:5]/[C:3](=[C:4](\[N:2]([H:7])[H:8])[H:11])[H:10])(=[O:6])[H:9],38.00453749999804
MR_225993_0,[C:1]([C:3](/[N:7]=[C:5](\[C:4]([C:2]([H:13])([H:14])[H:15])=[C:6]([H:16])[H:17])[H:9])=[O:8])([H:10])([H:11])[H:12]>>[C:1]([C:3]([C:6]([C@@:4]1([C:2]([H:13])([H:14])[H:15])[C:5]([H:9])[N:7]1)([H:16])[H:17])=[O:8])([H:10])([H:11])[H:12],72.89291000005207
MR_302693_0,[C:1]([c:3]1[c:4]([C:2]([H:12])([H:13])[H:14])[c:5]([H:8])[n:7][o:6]1)([H:9])([H:10])[H:11]>>[C:1]([C:3]([C@:4]1([C:2]([H:12])([H:13])[H:14])[C:5]([H:8])[N:7]1)=[O:6])([H:9])([H:10])[H:11],56.12234500001861
MR_386076_0,[C:1]([C:2]([H:14])([H:15])[H:16])([C:3](/[C:5](=[N:7]/[H:12])[H:13])=[N:6]/[H:11])([N:4]([H:9])[H:10])[H:8]>>[C:1](/[C:3]([C:5]([C:2]([H:14])([H:15])[H:16])([N:7]([H:9])[H:12])[H:13])=[N:6]/[H:11])(=[N:4]\[H:10])[H:8],69.65877500001355
MR_46619_2,[C:1]([N:4]([C:2]([H:11])([H:12])[H:13])[O:6][H:8])([C:5]([C:3]([H:14])([H:15])[H:16])=[O:7])([H:9])[H:10]>>[C:1](=[C:5]([C:3]([H:14])([H:15])[H:16])[O:7][N:4]([C:2]([H:11])([H:12])[H:13])[O:6][H:8])([H:9])[H:10],72.5295875000063
